US07253285B2
To a solution of (6-bromo-quinolin-4-yl)-diethylamine (0.510 g, 1.59 mmol) in THF (10 mL) was added dropwise a 2.5M solution of n-butyllithium in hexanes (0.765 mL, 1.92 mmol, 1.2 equiv.) at −70° C. During the addition, the color of the solution was turned into red and this solution was stirred for 1 h at this temperature. Then, a solution of dimethylformamide (0.246 mL, 3.19 mmol) in THF (1 mL) was added dropwise. After addition, the mixture was allowed to warm to room temperature and stirred for 2 h. Then, the mixture was diluted with saturated ammonium chloride solution and the two layers were separated. The aqueous layer was extracted with ethyl acetate (3×150 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the solvent under the vacuum gave the crude residue which was purified by using a Biotage silica gel column chromatography to afford 0.205 g (48% yield) of 4-(diethylamino)-quinoline-6-carbaldehyde as a white solid: EI-LRMS m/e calcd for C14H16N2O (M+) 229.1, found 229.1.

reactant | (6-bromo-quinolin-4-yl)-diethylamine | 1.59 mmol, 0.510 g | BrC=1C=C2C(=CC=NC2=CC1)N(CC)CC | C13H15BrN2
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 3.19 mmol, 0.246 mL | CN(C=O)C | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-(diethylamino)-quinoline-6-carbaldehyde | 0.205 g, 48% yield | C(C)N(C1=CC=NC2=CC=C(C=C12)C=O)CC | C14H16N2O
